US07601844B2
(2R,3S)-2-(tert-butoxycarbonylamino)-3-methylpentanoic acid (197 mg, 0.85 mmol), EDC (162 mg, 0.85 mmol), HOBt (115 mg, 0.85 mmol) was dissolved in chloroform (10 mL). DIPEA (0.15 mL, 0.85 mmol) and (S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol (200 mg, 0.834 mmol) were added. The mixture was stirred at rt for 2 h, diluted with dichloromethane and washed with aq NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and concentrated to give tert-butyl (2R,3S)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxopentan-2-ylcarbamate (327 mg) as a yellow solid.

reactant | (2R,3S)-2-(tert-butoxycarbonylamino)-3-methylpentanoic acid | 0.85 mmol, 197 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)[C@H](CC)C | C11H21NO4
reactant | EDC | 0.85 mmol, 162 mg
reactant | HOBt | 0.85 mmol, 115 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.85 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | 0.834 mmol, 200 mg | ClC1=CC=C(C=C1)[C@@]1(C(CNCC1)(C)C)O | C13H18ClNO
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl (2R,3S)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxopentan-2-ylcarbamate | 327 mg | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H]([C@H](CC)C)NC(OC(C)(C)C)=O)=O)(C)C)O | C24H37ClN2O4
